US04267193
Dissolve 2,6-diisopropylaniline (53.1 g, 0.30 mol) and ethyl bromoacetate (55.1 g, 0,33 mol) in 200 ml DMF. After 72 hours, pour onto aqueous NaHCO3 and extract with hexane. Wash the hexane twice with water. Dry, concentrate and distill to obtain as a fraction b.p. 130°-145° C./0.1 mm N-ethoxycarbonylmethyl-(2,6-diisopropyl)aniline.

reactant | 2,6-diisopropylaniline | 0.30 mol, 53.1 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | ethyl bromoacetate | 0,33 mol, 55.1 g | BrCC(=O)OCC | C4H7BrO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | N-ethoxycarbonylmethyl-(2,6-diisopropyl)aniline | C(C)OC(=O)CNC1=C(C=CC=C1C(C)C)C(C)C | C16H25NO2
